US07199150B2
(1-Methylpyrrol-2-yl)methyl triphenylphosphonium iodide
Subsequently, to a suspension of (1-methylpyrrol-2-yl)methyl trimethylammonium iodide (55.34 g, 197.5 mmol) obtained above in acetonitrile (400 ml) was added triphenylphosphine (62.20 g, 237.1 mmol) with stirring, and the resulting mixture was stirred at 80° C. for 10 hours. After cooling, the reaction mixture was concentrated to about one-half of its initial volume, to which was added ethyl acetate (200 ml). The crystals precipitated were collected by filtration, washed with ethyl acetate and dried in vacuo to afford the title compound (77.14 g, yield: 81%).

reactant | (1-methylpyrrol-2-yl)methyl trimethylammonium iodide | 197.5 mmol, 55.34 g | [I-].CN1C(=CC=C1)C[N+](C)(C)C
reactant | triphenylphosphine | 237.1 mmol, 62.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | (1-Methylpyrrol-2-yl)methyl triphenylphosphonium iodide | 77.14 g, yield: 81% | [I-].CN1C(=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H23NP.HI/c1-25-19-11-12-21(25)20-26(22-13-5-2-6-14-22,23-15-7-3-8-16-23)24-17-9-4-10-18-24;/h2-19H,20H2,1H3;1H/q+1;/p-1
